US05185333
To a solution of 1.0 g of 2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid in 30 ml of ethyl acetate was added 1.2 ml of triethylamine, and 0.55 g of pivaloyl chloride was added dropwise thereto at -10° to -5° C. under cooling. After stirring for 15 minutes at the same temperature, 0.57 g of 3-aminoquinuclidine was added at -10° to -5° C. and the mixture was stirred at room temperature for an hour. The resultant mixture was washed with water, dried over magnesium sulfate and concentrated. The precipitated crystals were collected by filtration and recrystallized from a mixed solvent of isopropyl ether and ethanol to give 2,2,4-trimethyl-N-(3-quinuclidinyl)-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide as white crystals, melting at 114°-116° C.

reactant | 2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 1.0 g | CC1(OC2=C(N(C1)C)C=CC=C2C(=O)O)C | C12H15NO3
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.55 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-aminoquinuclidine | 0.57 g | NC1CN2CCC1CC2 | C7H14N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2,2,4-trimethyl-N-(3-quinuclidinyl)-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide | CC1(OC2=C(N(C1)C)C=CC=C2C(=O)NC2CN1CCC2CC1)C | C19H27N3O2
